US06087379
(b) 1-(α-Cyclopropylcarbonyl-2-fluorobenzyl)-3-ethylidene-4-hydroxypiperidine
In 20 ml of methylene chloride, 1.51 g (6.7 mmol) of 1-(t-butoxycarbonyl)-3-ethylidene-4-hydroxypiperidine were dissolved. To the resulting solution, 5 ml of trifluoroacetic acid were added under ice cooling, followed by stirring at room temperature for 2 hours. To the reaction mixture, 11 ml of triethylamine and 1.70 g (6.7 mmol) of α-cyclopropylcarbonyl-2-fluorobenzylbromide were added under ice cooling, followed by stirring at room temperature for 2 hours. The solvent was distilled off under reduced pressure. Ethyl acetate was added to the residue and the solid so precipitated was filtered off. The filtrate was then concentrated by evaporation under reduced pressure. The residue was subjected to chromatography on a silica gel column (eluting solvent: chloroform/methanol=100/1), whereby 1.52 g (yield: 74.9%) of the title compound were obtained as a yellow oil.

reactant | 1-(t-butoxycarbonyl)-3-ethylidene-4-hydroxypiperidine | 6.7 mmol, 1.51 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)O)=CC | C12H21NO3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 11 ml | C(C)N(CC)CC | C6H15N
reactant | α-cyclopropylcarbonyl-2-fluorobenzylbromide | 6.7 mmol, 1.70 g | C1(CC1)C(=O)C(C1=C(C=CC=C1)F)Br | C11H10BrFO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(α-Cyclopropylcarbonyl-2-fluorobenzyl)-3-ethylidene-4-hydroxypiperidine | 1.52 g, yield: 74.9% | C1(CC1)C(=O)C(C1=C(C=CC=C1)F)N1CC(C(CC1)O)=CC | C18H22FNO2
